US04797469
4. Z-Ala-Arg(NO2)-Ala-Arg-Leu-NH2
From 715 g of trifluoroacetate of H-Arg(NO2)Ala-Arg(NO2)-Leu-NH2 in solution in 4 l of DMF and 233 g of Z-Ala-OH and 500 g of BOP employing the same technique as the one described in I-2 (and without treatment in that case by TFA-CH2Cl2), 612 g of Z-Ala-Arg(NO2)-Ala-Arg(NO2)Leu-NH2 (76%) are obtained, after recrystallization in the DMF-ether mixture, in the form of a white pulverulent solid, monitored by TLC and NMR.

reactant | trifluoroacetate | 715 g | FC(C(=O)[O-])(F)F
reactant | H-Arg(NO2)Ala-Arg(NO2)-Leu-NH2 | N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N[C@@H](CC(C)C)C(=O)N | C21H41N13O8
reactant | Z-Ala-OH | 233 g | N([C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C11H13NO4
reactant | BOP | 500 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | TFA CH2Cl2 | C(=O)(C(F)(F)F)O.C(Cl)Cl
reactant | Z-Ala-Arg(NO2)-Ala-Arg(NO2)Leu-NH2 | 612 g | N([C@@H](C)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N[C@@H](CC(C)C)C(=O)N)C(=O)OCC1=CC=CC=C1 | C32H52N14O11
solvent | DMF | 4 l | CN(C)C=O | C3H7NO
product | Z-Ala-Arg(NO2)-Ala-Arg-Leu-NH2 | N([C@@H](C)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CC(C)C)C(=O)N)C(=O)OCC1=CC=CC=C1 | C32H53N13O9
